US04587245
(a) 1-(2-amino-5-chlorophenyl)-1-(2-fluorophenyl)-2-azabut-1-en-4-ol
A mixture of 40 g of 2-methylimidazole hydrochloride and of 90 g of 2-amino-5-chloro-2'-fluoro-benzophenone in 240 ml of ethanolamine is heated at 135° for 2 hours. After cooling, the reaction mixture is poured into an aqueous sodium bicarbonate solution. The mixture is extracted with ether, the organic phase is washed repeatedly with water and is dried over sodium sulphate, and the solvent is evaporated to dryness. The residual oil is chromatographed on a silica column, elution being carried out with a 50/50 mixture of cyclohexane and ethyl acetate.

reactant | 2-methylimidazole hydrochloride | 40 g | Cl.CC=1NC=CN1
reactant | 2-amino-5-chloro-2'-fluoro-benzophenone | 90 g | NC1=C(C(=O)C2=C(C=CC=C2)F)C=C(C=C1)Cl | C13H9ClFNO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanolamine | 240 ml | C(O)CN | C2H7NO
product | 1-(2-amino-5-chlorophenyl)-1-(2-fluorophenyl)-2-azabut-1-en-4-ol | NC1=C(C=C(C=C1)Cl)C(=NCCO)C1=C(C=CC=C1)F | C15H14ClFN2O
